US05527819
Preparation of N-[2-(3-methylimidazol-4-yl)ethyl]-3-phenylsulfonyl-5-chloroindole-2-carboxamide
Reaction of 3-phenylsulfonyl-5-chloroindole-2-carboxylic acid with 3-methylhistamine under the conditions of Example 37 gave the title compound, mp 257°-258.5° C.

reactant | 3-phenylsulfonyl-5-chloroindole-2-carboxylic acid | C1(=CC=CC=C1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)Cl)C(=O)O | C15H10ClNO4S
reactant | 3-methylhistamine | CN1C=NC=C1CCN | C6H11N3
product | N-[2-(3-methylimidazol-4-yl)ethyl]-3-phenylsulfonyl-5-chloroindole-2-carboxamide | CN1C=NC=C1CCNC(=O)C=1NC2=CC=C(C=C2C1S(=O)(=O)C1=CC=CC=C1)Cl | C21H19ClN4O3S
